US05037830
Preparation of 2-(2-dimethylaminobenzyl)thio-6-methyl-4(3H)-pyrimidinone
After dissolving 0.71 g (5 mmol) of 6-methyl-2-thiouracil [Ann. 236, 1 (1986)] and 1.03 g (5 mmol) of (2-chloromethylphenyl)-dimethylammonium chloride (J. Chem. Soc. 1954, 4127) in 10 ml of dimethylsulfoxide, the reaction mixture is stirred at room temperature for 1 hour and then poured into 60 ml of water. After adjusting the pH value of the mixture to 6-8 by adding aqueous 1 N sodium hydroxide solution the precipitate is filtered and the crude base (1.3 g) is recrystallized from benzene to give 1.08 g (78.4%) of the title compound, m.p.: 152°-154° C. (white crystals).

reactant | 6-methyl-2-thiouracil | 5 mmol, 0.71 g | CC1=CC(NC(N1)=S)=O | C5H6N2OS
reactant | (2-chloromethylphenyl)-dimethylammonium chloride | 5 mmol, 1.03 g | [Cl-].ClCC1=C(C=CC=C1)[NH+](C)C
reactant | water | 60 ml | O | H2O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-(2-dimethylaminobenzyl)thio-6-methyl-4(3H)-pyrimidinone | 1.08 g, 78.4% | CN(C1=C(CSC2=NC(=CC(N2)=O)C)C=CC=C1)C | C14H17N3OS
